US09079866B2
2-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfanyl}pyrimidin-4-amine hydrochloride
The title compound was prepared using analogous conditions to those described in Example 213 utilizing 4′-(5-aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-thiol and 4-amino-2-chloropyrimidine. MS (ESI): mass calcd. for C20H15FN6S, 390.11; m/z found, 390.9 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.31 (m, 1H), 8.16 (s, 1H), 7.88 (m, 1H), 7.83-7.75 (m, 2H), 7.71-7.63 (m, 1H), 7.58-7.52 (m, 2H), 7.32-7.21 (m, 2H), 6.37 (d, J=7.2, 1H).

reactant | 4′-(5-aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-thiol | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S)F | C16H12FN3S
reactant | 4-amino-2-chloropyrimidine | NC1=NC(=NC=C1)Cl | C4H4ClN3
product | 2-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfanyl}pyrimidin-4-amine hydrochloride | Cl.NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)SC1=NC=CC(=N1)N)F | InChI=1S/C20H15FN6S.ClH/c21-15-9-12(5-6-14(15)16-10-26-19(23)11-25-16)13-3-1-2-4-17(13)28-20-24-8-7-18(22)27-20;/h1-11H,(H2,23,26)(H2,22,24,27);1H
